US09359362B2
(rac)-7-(4-Cyanophenyl)-5-methyl-2-thiophen-2-yl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile
Under an atmosphere of argon, 3-(2-thienyl)-1H-1,2,4-triazole-5-amine (318 mg, 1.9 mmol) and 4-(2-cyano-3-oxobut-1-en-1-yl)benzonitrile (300 mg, 1.5 mmol, 0.8 eq.) were dissolved in DMF (3 ml), and solid sodium bicarbonate (803 mg, 9.6 mmol, 5 eq.) was added. The mixture was stirred at 55° C. for 12 h. The mixture was then filtered, and the DMF from the filtrate was distilled off under reduced pressure. The residue was purified by preparative HPLC (Kromasil C18 column, 30×250 mm; mobile phase: acetonitrile-water-0.1% TFA). The product was obtained as a solid (73.7 mg, 91% pure, 12% of theory).

reactant | 3-(2-thienyl)-1H-1,2,4-triazole-5-amine | 1.9 mmol, 318 mg | S1C(=CC=C1)C1=NNC(=N1)N | C6H6N4S
reactant | 4-(2-cyano-3-oxobut-1-en-1-yl)benzonitrile | 1.5 mmol, 300 mg, 0.8 eq. | C(#N)C(=CC1=CC=C(C#N)C=C1)C(C)=O | C12H8N2O
reactant | sodium bicarbonate | 9.6 mmol, 803 mg, 5 eq. | C([O-])(O)=O.[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | (rac)-7-(4-Cyanophenyl)-5-methyl-2-thiophen-2-yl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile | C(#N)C1=CC=C(C=C1)C1C(=C(NC=2N1N=C(N2)C=2SC=CC2)C)C#N | C18H12N6S
